US09301951B2
N1-methyl-N1-(2-(4-(methylsulfonyl)piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
Into a 50-mL round-bottom flask, was placed a solution of N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (100 mg, 0.14 mmol, 1.00 equiv) in dichloromethane (3 mL), triethylamine (42 mg, 0.42 mmol, 3.00 equiv), and methanesulfonyl chloride (17 mg, 0.15 mmol, 1.05 equiv). The resulting solution was stirred for 40 min at 25° C. The reaction was then quenched by the addition of 3 mL of water. The resulting solution was extracted with 2×5 mL of dichloromethane and the organic layers combined. The resulting mixture was washed with 1×5 mL of water and 1×5 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (90 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 55.8 mg (50%) of a light yellow solid. 1H-NMR (300 MHz, CD3OD, ppm): δ 8.97 (d, J=5.1 Hz, 1H), 8.764 (d, J=9.0 Hz, 1H), 8.45 (s, 1H), 8.16˜8.10 (m, 3H), 7.89˜7.87 (m, 1H), 7.80 (d, J=7.5 Hz, 1H), 7.72˜7.67 (m, 4H), 7.62˜7.53 (m, 2H), 4.72 (s, 2H), 4.00 (s, 2H), 3.68˜3.55 (m, 14H), 3.11 (s, 3H), 2.96 (s, 3H), 2.04 (d, J=4.8 Hz, 1H), 1.83 (d, J=5.1 Hz, 1H). MS (ES, m/z): 806 [M+H]+.

reactant | N1-methyl-N1-(2-(piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.14 mmol, 100 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCNCC1 | C40H44F3N7O3
reactant | triethylamine | 0.42 mmol, 42 mg, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.15 mmol, 17 mg, 1.05 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N1-methyl-N1-(2-(4-(methylsulfonyl)piperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 55.8 mg, 50% | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)CCN1CCN(CC1)S(=O)(=O)C | C41H46F3N7O5S
